US05703072
(S)-1,4-diazabicyclo[4.3.0]nonane
(3S,6S)-3-methyl-1,4-diazabicyclo[4.3.0]nonane, 14% yield, from N-Fmoc-L-proline and L-alanine methyl ester hydrochloride.

reactant | (3S,6S)-3-methyl-1,4-diazabicyclo[4.3.0]nonane | C[C@H]1CN2CCC[C@H]2CN1 | C8H16N2
reactant | N-Fmoc-L-proline | C(=O)(OCC1C2=CC=CC=C2C2=CC=CC=C12)N1[C@H](C(=O)O)CCC1 | C20H19NO4
reactant | L-alanine methyl ester hydrochloride | Cl.COC([C@@H](N)C)=O
product | (S)-1,4-diazabicyclo[4.3.0]nonane | 14% yield | N12CCNC[C@@H]2CCC1 | C7H14N2
